US07091353B2
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.29 g, 1.90 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.85 mmol) in CH3CN (50 mL). After stirring for 20 min, octyl isocyanate (0.44 g, 2.77 mmol) was added. The mixture was stirred at room temperature for 17 hours. The slurry mixture was filtered and the solid was recrystallized from methanol to give N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(octylamino)carboxamide (0.46 g, 56%) as a white solid: mp 160–162° C.; 1H NMR (DMSO-d6) δ 11.14 (s, 1H), 7.85–7.68 (m, 3H), 6.43 (t, J=6.0 Hz, 1H), 6.13 (t, J=5.6 Hz, 1H), 5.18–5.11 (dd, J=5.3 and 12.5 Hz, 1H), 4.62 (d, J=6.0 Hz, 2H), 3.02–2.83 (m, 3H), 2.64–2.50 (m, 2H), 2.08–2.04 (m, 1H), 1.36–1.24 (m 12H), 0.85 (t, J=6.2 Hz, 3H); 13C NMR (DMSO-d6) δ 172.75, 169.82, 167.57, 167.03, 157.99, 141.19, 134.57, 133.33, 131.50, 126.95, 121.61, 48.82, 39.32, 38.83, 31.21, 30.93, 29.92, 28.73, 28.69, 26.37, 22.07, 21.98, 13.93; Anal. Calcd. For C23H30N4O5: C, 62.43; H, 6.83; N, 12.66. Found: C, 62.27; H, 6.94; N, 12.54.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 1.90 mmol, 0.29 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.85 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | octyl isocyanate | 2.77 mmol, 0.44 g | C(CCCCCCC)N=C=O | C9H17NO
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | N-{[2-(2,6-dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}(octylamino)carboxamide | 0.46 g, 56% | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(=O)NCCCCCCCC)=O)=O | C23H30N4O5
